US05607898
5 ml of dichloromethane, 5 ml of water and 0.10 g (0.72 mmol, 1 equivalent) of potassium carbonate were added to 0.26 g (0.75 mmol) of 5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide in a 30-ml eggplant type flask. While the mixture was stirred at room temperature, a solution of 0.16 g (0.82 mmol, 1.1 equivalents) of p-toluenesulfonyl chloride in 1 ml of dichloromethane was dropwise added at room temperature. 5 mg of benzyltriethylammonium chloride (BTEAC) was added, and the mixture was allowed to react at the above temperature for 2 hours and then liquid-separated. An aqueous layer was extracted with dichloromethane. An organic layer was washed with a saturated sodium chloride aqueous solution and dried over sodium sulfate. The solvent was distilled off to give 0.24 g of a crude product, and the crude product was recrystallized from ethanol to give 0.14 g (yield 92%) of 5-methyl-6-(1-ethyl-p-toluenesulfonyloxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide (Compound No. 59).

reactant | water | 5 ml | O | H2O
reactant | potassium carbonate | 0.72 mmol, 0.10 g, 1 equivalent | C([O-])([O-])=O.[K+].[K+]
reactant | 5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | 0.75 mmol, 0.26 g | CC1=C2CCCS(C2=CC=C1C(=O)C=1C=NN(C1O)CC)(=O)=O | C16H18N2O4S
reactant | p-toluenesulfonyl chloride | 0.82 mmol, 0.16 g, 1.1 equivalents | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
catalyst | benzyltriethylammonium chloride | 5 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-methyl-6-(1-ethyl-p-toluenesulfonyloxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | 0.14 g, yield 92% | CC1=C2CCCS(C2=CC=C1C(=O)C=1C(=NN(C1)CC)OS(=O)(=O)C1=CC=C(C=C1)C)(=O)=O | C23H24N2O6S2
